US05994544
(R/S)-1t-Butoxycarbonyl-1,2,3,4-tetrahydro-4-hydroxy-4-methyl-7-methoxyquinoline.
To a flame dried 250 mL 3-necked rb flask equivuipped with a magnetic stir bar was added Ce(III)Cl-7 H2O (2.74 g, 7.35 mmol, 2 equiv). The flask was heated in a 140° C. oil bath under reduced pressure (~1 torr) for 2.5 h. The flask was cooled to rt and slowly filled with N2G. The white powder was suspended in dry THF (30 mL), stirred at rt for 1 h and then cooled to -78° C. To the white suspension was added a 1.4M solution of methyl lithium (MeLi) in Et2O (5.25 mL, 7.35 mmol, 2 equiv) by syringe. The dark yellow/brown solution stirred at -78° C. for 1 h and then 1-t-butoxycarbonyl-1,2,3,4-tetrahydro-7-methoxy-4-quinolone dissolved in 3 mL THF was added. The solution stirred at -78° C. for 3 h and was warmed to 0° C. for 2 h. The reaction did not go to completion and starting material was observed by TLC (silica gel, hexane/EtOAc, 3:1). The reaction was quenched with H2O (1 mL) and allowed to warm to rt. The solution was neutralized with sat NH4Cl solution (5 mL), extracted with EtOAc (3×100 mL), washed with brine (1×100 mL), dried over Na2SO4 and concentrated in vacuo to give a mix of the desired alcohol and starting material. The mixture was taken up in EtOAc and concentrated on Celite™ to give a free flowing powder which was purified via flash column chromatography (silica gel, hexanes/EtOAc, 3:1) to give 796 mg (74%) of the desired product as a vicious clear colorless oil. Data for 1-t-butoxycarbonyl-1,2,3,4-tetrahydro-4-hydroxy-4-methyl-7-methoxy-quinoline: Rf =0.20 (hexanes/EtOAc, 3:1); 1H NMR (400 MHz, CDCl3) 7.42 (d, J=8.7, 1H), 7.33 (d, J=2.5, 1H), 6.66 (dd, J=2.5, 8.6, 1H), 3.98 (m, 1H), 3.79 (s, 3H, OCH3), 3.61 (m, 1H), 1.98 (m, 2H), 1.58 (s, 3H), 1.53 (s, 9H).

reactant | methyl lithium | C[Li]
reactant | Et2O | 7.35 mmol, 5.25 mL, 2 equiv | CCOCC | C4H10O
reactant | 1-t-butoxycarbonyl-1,2,3,4-tetrahydro-7-methoxy-4-quinolone | C(C)(C)(C)OC(=O)N1CCC(C2=CC=C(C=C12)OC)=O | C15H19NO4
reactant | hexane EtOAc | CCCCCC.CCOC(=O)C
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (R/S)-1t-Butoxycarbonyl-1,2,3,4-tetrahydro-4-hydroxy-4-methyl-7-methoxyquinoline | 796 mg, 74% | C(C)(C)(C)OC(=O)N1CCC(C2=CC=C(C=C12)OC)(C)O | C16H23NO4
